US08471005B2
[4-(1,1-Dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine was prepared from 2-methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine and 4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenylamine in an analogous manner to Example 1049. Product isolated as an orange foam (19 mg, 11%). LCMS (m/e) 435 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 9.30 (s, 1H), 8.76 (s, 1H), 8.62 (d, 1H, J=3.8 Hz), 8.49-8.42 (m, 1H), 7.59 (d, 2H, J=8.4 Hz), 7.42 (dd, 1H, J=8.0 and 4.8 MHz), 7.29 (d, 2H, J=8.4 Hz), 7.04 (d, 1H, J=4.8 Hz), 6.95 (s, 1H), 6.88 (d, 1H, J=4.8 Hz), 3.62 (s, 2H), 3.10-3.03 (m, 4H), 3.02-2.96 (m, 4H).

reactant | 2-methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC=CC2 | C12H10N4OS
reactant | 4-(1,1-dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenylamine | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
product | [4-(1,1-Dioxo-1$1(6)-thiomorpholin-4-ylmethyl)-phenyl]-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC=CC2)=O | C22H22N6O2S
